US04782050
C. 1-vinylbenzimidazole
To 3.61 g (20 mmoles) of 1-(2-chloroethyl)benzimidazole in 50 ml of tetrahydrofuran was added in portions 960 mg (20 mmoles) of 50% sodium hydride and the mixture allowed to stir for 3 hours. The solids were filtered, washed with tetrahydrofuran and the washings and filtrate evaporated to dryness. The residue was dissolved in acetonitrile, washed with hexane and the acetonitrile concentrated to give 2.77 g of product as a yellow oil.

reactant | 1-(2-chloroethyl)benzimidazole | 20 mmoles, 3.61 g | ClCCN1C=NC2=C1C=CC=C2 | C9H9ClN2
reactant | sodium hydride | 20 mmoles, 960 mg | [H-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-vinylbenzimidazole | 2.77 g | C(=C)N1C=NC2=C1C=CC=C2 | C9H8N2
